Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Depression with SI
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Briefly patient is a ___ year old man with a history of 
depression and previous suicide attempt who presents to the ED 
from ___ office with complaints of depression and 
suicidal ideation with plan. Patient is a ___ 
___ freshman who recently moved to ___ for school after 
growing up between ___. He reports that he did 
not bring his medications with him when he came to the ___ about 
6 weeks ago, and has noted a gradual worsening of his symptoms 
over that time.

In the ED, patient reported worsening mood and symptoms of
depression, including poor sleep, guilt, low energy, change in
appetite, and feelings of anxiety. He reported suicidal ideation
but denied intent or plan, although collateral from ___
Counseling office suggested that the patient had previously
reported a plan to jump off a building. Patient was in good
behavioral control throughout his stay in the ED, and did not
require chemical or physical restraint. He was treated with 25mg
hydroxyzine twice for symptoms of anxiety and insomnia. 

On interview upon arrival to the floor, patient continues to
report very low mood and significant anxiety related to his
hospitalization. He denies current SI, intent or plan, and 
denies
current or past HI and AVH. He reports that he got somewhat
better sleep last night in the ED after his dose of hydroxyzine,
but otherwise reports that his symptoms are unchanged from
yesterday. 

General review of systems was positive for nasal congestion,
otherwise negative for fevers, chills, rashes, chest pain,
palpitations, shortness of breath (aside from in the context of
anxiety), cough, abdominal pain, nausea, vomiting, joint or
muscle plain and change in bowel or bladder habits. 
 
Past Medical History:
PAST MEDICAL HISTORY: 
"Sinus Troubles" otherwise negative, denies seizure or head
injury

PAST PSYCHIATRIC HISTORY: 
Diagnoses: Depression, anxiety
Hospitalizations: One prior hospitalization in ___
Suicide Attempts: 2 - most recent ___ of this year by
overdose. Age ___ by cutting wrists (required stitches)
Trauma: Rape at age ___ prior to suicide attempt, recent sexual
assault over the summer in ___
Current Treaters and Treatment: None locally, has not taken
medications since coming to US about 6 weeks prior to
presentation
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother with "mood swings"
Sister with depression
___ family history of suicide

 
Physical Exam:
Admission exam:
*VS: T   97.5  HR  54   BP 120/60    RR  16   O2 sat 100% on RA
Neurological:
 *station and gait: not observed, patient laying down in 
hospital
gurney
 *tone and strength: antigravitational in all 4 ext
 cranial nerves: CN II-XII no gross deficits
 abnormal movements:  no PMA/PMR
 frontal release: not formally tested

Cognition:
 Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): MOYB without error
 *Orientation: ___, correct month/day/year
 Executive function (go-no go, Luria, trails, FAS): not formally
tested
 *Memory:  ___ immediate and ___ spontaneous after 5 min
 *Fund of knowledge:  knows first president of ___
 Calculations:  $1.75 as 7 quarters
 Abstraction:  apple/orange as fruits
 Visuospatial: not formally tested
 *Speech: normal rate, normal tone, normal prosody
 *Language: fluent in ___

Mental Status:
 *Appearance: age-appearing male, wearing hat and earrings;
tattoos on arms and leg
 Behavior: cooperative, polite; poor eye contact
 *Mood and Affect: "down" / dysphoric to euthymic; laughs
sheepishly at times
 *Thought process / *associations:  linear, goal oriented, no 
LOA
 *Thought Content: endorses SI without plan, denies HI, AVH
 *Judgment and Insight: limited/limited

Discharge exam:
Neurological:

 *station and gait: grossly normal station and gait 
 *tone and strength: moves all 4 extremities spontaneously 
against gravity
 cranial nerves: CN II-XII no gross deficits
 abnormal movements:  no PMA/PMR
 frontal release: not formally tested

Cognition:
Wakefulness/alertness: awake and alert
*Attention (digit span, MOYB): attentive to interview and 
conversation
*Orientation: ___, correct month/day/year
Executive function (go-no go, Luria, trails, FAS): not formally 
tested *Memory:  grossly intact to recent and remote history 
*Speech: normal rate, normal tone, normal prosody
 *Language: fluent in ___

 
Mental Status:
 *Appearance: age-appearing Asian male, dressed in sweatshirt 
and scrub pants, grooming and hygiene intact, tattoo of cat over 
L aspect of neck 
 Behavior: cooperative, polite, smiling and laughing during 
interview, poor eye contact
 *Mood and Affect: "really good" / affect congruent with stated 
mood, patient smiling and freely discussing his admission, 
though makes poor eye contact
 *Thought process / *associations:  linear, goal oriented, no 
LOA
 *Thought Content: denies SI, denies HI, AVH 
*Judgment and Insight: fair/fair
 
 
Pertinent Results:
___ 09:43PM   ALT(SGPT)-10 AST(SGOT)-16 ALK PHOS-76 TOT 
BILI-0.3
___ 09:43PM   TSH-1.2
___ 06:33PM   GLUCOSE-91 UREA N-10 CREAT-1.0 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-27 ANION GAP-14
___ 06:33PM   estGFR-Using this
___ 06:33PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:33PM   WBC-4.7 RBC-4.86 HGB-14.7 HCT-45.3 MCV-93 
MCH-30.2 MCHC-32.5 RDW-12.7 RDWSD-43.8
___ 06:33PM   NEUTS-60.2 ___ MONOS-8.5 EOS-2.5 
BASOS-0.2 IM ___ AbsNeut-2.84 AbsLymp-1.34 AbsMono-0.40 
AbsEos-0.12 AbsBaso-0.01
___ 06:33PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, however, 
the day following admission the patient signed a conditional 
voluntary agreement (Section 10 & 11) and remained on that level 
throughout his admission. He also signed a 3-day notice, which 
was due to expire on ___. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#)Major depressive disorder with SI
Briefly, this patient is a ___ year old ___ male, freshman 
student of vocal performance at ___, with 
past history of major depression, two past suicide attempts (one 
at age ___, one this past ___ who presented to the ___ ED 
after expressing thoughts of depression and suicidal ideation at 
the counseling ___. The patient 
notes worsening depression since discontinuing his medications 
abruptly upon moving to the ___. to start college at ___ 
this past ___. The patient has since expressed worsened 
depressive mood, suicidal thoughts (as per ___ counseling 
services), difficulty sleeping, 6kg weight loss over 2 months 
with low appetite (2 meals per day), low motivation to get out 
of bed, nightmares, and anxiety. He denied a history of manic 
symptoms.

Patient notes his regimen prior to moving to the ___ (which was 
abruptly discontinued) is as follows: 
quetiapine 25mg qHS, paroxetine 25mg qHS, propranolol 210mg qD, 
clonazapam 0.5mg BID, diazepam 15mg qAM, zolpidem 10mg qHS). 

He was started on sertraline (discharge dose of 75mg qD) for 
depression, prazosin for nightmares (discharge dose of 3mg qHS), 
and was transiently treated with gabapentin for sleep and 
anxiety, which was discontinued on the inpatient service. 
Oxycarbazepine was started for mood lability and he was 
discharged on a dose of 300mg BID. He was written prescriptions 
for PRN quetiapine for insomnia (50mg) and hydroxyzine 50mg for 
anxiety. 

At time of discharge, patient described improved mood and denied 
SI. He reported his mood was much improved but had some anxiety 
regarding reentering daily life, but felt subjectively safe to 
himself and reported he would present to the ER if he had 
concern for suicidality. He was made a PCP appointment at ___ 
___, who will bridge psychiatric medications as ___ 
arranges for a psychiatrist. He was discharged to re-intake 
appointment at ___ counseling services. 

3. SUBSTANCE USE DISORDERS:
Patient denied significant substance use prior to admission; he 
endorsed a previous history of "drinking heavily at times," 
prior to coming to the ___, and had drank in ___. He endorsed 
at times drinking to the point of passing out, but denied any 
history of complicated withdrawals (eg. tremor, seizures, 
diaphoresis, etc). He was counseled on the dangers of alcohol 
intake as it related to his physical and mental health, and how 
alcohol use can exacerbate depression.

4. MEDICAL
#) No active medical issues this admission.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Cousins, ___ and ___:
At patient's request, his closest family in the ___., cousins in 
___ were called and spoken to on conference call with 
___, resident MD, and attending MD present. Clinical updates and 
hospital course were discussed, our concerns regarding the 
patient's safety prior to admission and need for ongoing family 
support were discussed, and the patient's medications were 
discussed. 

#) INTERVENTIONS
- Medications: as above
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: new treaters were arranged for and 
appointments were provided at discharge.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medications.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
depression with suicidal ideation.  Their static factors noted 
at that time include history of suicide attempts, history of 
abuse,  chronic mental illness, history of alcohol abuse, male 
gender, marital status, LGBT identity, The modifiable risk 
factors below were also addressed at that time by starting 
medications and arranging for new outpatient treaters. 

Our Prognosis of this patient is guarded, with concern over past 
suicide attempts.

MODIFIABLE RISK FACTORS
suicidal ideation without intent/plan,medication 
noncompliance,hopelessness, social withdrawal, limited social 
supports, no established outpatient treatment, insomnia, lack of 
purpose.

PROTECTIVE RISK FACTORS
future-oriented viewpoint, sense of responsibility to family, 
reality testing ability, good coping skills, good 
problem-solving skills, willingness to pursue outpatient 
treatment, some evidence of help-seeking behaviors by seeking 
aid at college counseling service.
 
Medications on Admission:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent

 
Discharge Condition:
A&Ox3, Denies SI, HI, AVH. Mood "very good," affect congruent. 

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for depression with thoughts of 
suicide.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___